US07384934B2
N-(2,4-Dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazapin-3-yl)-butyramide
Using the method of Example 53, using 3-amino-1H-1,5-benzodiazepine-2,4-(3H, 5H)-dione (4.0 g, 20.9 mmol), butyryl chloride (2.45 g, 23.0 mmol) and overnight at RT gives the title compound (4.16 g, yield 76%); 1H NMR (300 MHz, DMSO-d6): δ 10.70 (s, 2H), 8.21 (d, 1H, J=7.8 Hz), 7.24-7.15 (m, 4H), 4.74 (d, 1H, J=7.5 Hz), 2.24 (t, 2H, J=7.2 Hz), 1.51-1.43 (m, 2H), 0.83 (t, 3H, J=7.5 Hz).

reactant | 3-amino-1H-1,5-benzodiazepine-2,4-(3H, 5H)-dione | 20.9 mmol, 4.0 g | NC1C(NC2=C(NC1=O)C=CC=C2)=O | C9H9N3O2
reactant | butyryl chloride | 23.0 mmol, 2.45 g | C(CCC)(=O)Cl | C4H7ClO
product | N-(2,4-Dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazapin-3-yl)-butyramide | 4.16 g, yield 76% | O=C1C(C(NC2=C(N1)C=CC=C2)=O)NC(CCC)=O | C13H15N3O3
